US04299614
1-(3-Chlorophenyl)-2-ethyl-4-(α,α,α-trifluoro-3-tolyl)-3-pyrazolin-5-one
A 2.6 gram portion of 1-(3-chlorophenyl)-4-(α,α,α-trifluoro-3-tolyl)-3-pyrazolin-5-one, prepared in Example 3, was alkylated with ethyl iodide to produce 0.25 grams of the desired product, an oily liquid.

reactant | 1-(3-chlorophenyl)-4-(α,α,α-trifluoro-3-tolyl)-3-pyrazolin-5-one | ClC=1C=C(C=CC1)N1NC=C(C1=O)C=1C=C(C=CC1)C(F)(F)F | C16H10ClF3N2O
reactant | ethyl iodide | C(C)I | C2H5I
product | 1-(3-Chlorophenyl)-2-ethyl-4-(α,α,α-trifluoro-3-tolyl)-3-pyrazolin-5-one | 0.25 grams | ClC=1C=C(C=CC1)N1N(C=C(C1=O)C=1C=C(C=CC1)C(F)(F)F)CC | C18H14ClF3N2O
